US04590282
2-phenyl-4-{1-[4-(1-methylpropoxy)phenoxy]ethyl}-1,3-dioxolane.
In the same manner, 3-[4-(1-methylpropoxy)phenoxy]-1,2-pentanediol is reacted with each of acetone and benzaldehyde to give, respectively,

reactant | 3-[4-(1-methylpropoxy)phenoxy]-1,2-pentanediol | CC(CC)OC1=CC=C(OC(C(CO)O)CC)C=C1 | C15H24O4
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetone | CC(=O)C | C3H6O
product | 2-phenyl-4-{1-[4-(1-methylpropoxy)phenoxy]ethyl}-1,3-dioxolane | C1(=CC=CC=C1)C1OCC(O1)C(C)OC1=CC=C(C=C1)OC(CC)C | C21H26O4
